US07101878B1
4-(3-methylphenoxy)-2-butanone:
To m-Cresol (4.0 g, 37 mmol), methyl vinyl ketone (3.2 mL, 37 mmol) in chloroform (25 mL), was added diispropyl ethyl amine. The mixture was heated at reflux for 16 h, allowed to cool to room temperature and evaporated. The residue has 50% product and 50% starting material. The starting material was separated as t-butyldimethyl silyl ether. The product was isolated via plug filteration using silica gel 50% hexane/ethyl acetate. Yield 4.5 g (68%). As an alternative purification procedure, the crude reaction mixture was evaporated, dissolved in DMF (0.2M) and 0.5 equivalents of imidazole and 0.5 equivalents of tBDMSCI were added. The reaction was stirred for 3 hr at room temperature and then the solvents were removed in vacuo. To the residue was added 75 mL ethyl acetate and 75 mL water (ratio of 1/1). The ethyl acetate layer was separated and dried over Na2SO4. The solvents were removed in vacuo. The crude material was placed on a pad of silical gel and the silylated m-cresol was removed with hexanes. The product was obtained by eluting with 5-10% ethyl acetate in hexanes. The solvents were removed in vacuo to give the desired product. 1H(CDCl3):7.15 (t, 1H), 6.65-6.80(m, 2H), 4.25 (t, 2H), 2.75 (t, 2H), 2.25 and 2.35 (2 s, 3H each).

reactant | m-Cresol | 37 mmol, 4.0 g | C1=C(C=CC=C1O)C | C7H8O
reactant | methyl vinyl ketone | 37 mmol, 3.2 mL | C(=C)C(=O)C | C4H6O
reactant | ethyl amine | C(C)N | C2H7N
reactant | imidazole | 0.5 equivalents | N1C=NC=C1 | C3H4N2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-methylphenoxy)-2-butanone | CC=1C=C(OCCC(C)=O)C=CC1 | C11H14O2
